US06498165B1
2-[1,1-Dimethylethylamino]-4-[benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine according to the procedure described in EXAMPLE 1, Step C except using 1,1-dimethylethylamine as the solvent and heating at 40° C. Mass Spectrum (CI): m/e 268.3 (M+1). ). 1H NMR (500 MHz, CDCl3): δ 8.69 (s, 1H); 8.40 (d, J=5.5 Hz, 1H); 8.07 (d, J=7.3 Hz, 1H); 7.88 (m, 1H); 7.40 (m, 2H); 6.81 (d, J=5.2 Hz, 1H); 5.40 (br s, 1H); 1.54 (s, 9H).

reactant | 2-methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 1,1-dimethylethylamine | CC(C)(C)N | C4H11N
product | 2-[1,1-Dimethylethylamino]-4-[benzimidazol-1-yl]pyrimidine | CC(C)(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C15H17N5
